US07279494B2
IV. (2E)-3-(4-{[(benzyloxy)carbonyl]amino}-2-fluorophenyl)prop-2-enyl diazoacetate
Glyoxylic acid chloride p-toluenesulfonylhydrazone (2.2 g, 8.5 mmol, prepared as described by C. J. Blankley, F. J. Sauter and H. O. House, Organic Syntheses, Coll. Vol. V, p. 258; John Wiley, New York (1973)) was added to a suspension of benzyl 3-fluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate (2.14 g, 7.1 mmol) in dichloromethane (55 mL). The mixture was cooled to 0° C. and treated with N,N-dimethylaniline (1.0 mL, 7.81 mmol). After 30 minutes, triethylamine (4.9 mL, 35.5 mmol) was added and the mixture stirred 30 minutes at 0° C. and 15 minutes at room temperature. The reaction mixture was then concentrated to about 15 mL and 50 mL of water added. The mixture was extracted with two portions of diethyl ether and the combined organic solutions washed with saturated NaHCO3, brine and dried (MgSO4), filtered and concentrated. Purification by column chromatography (0-25% ethyl acetate-hexane) provided the title compound as a yellow solid.

reactant | Glyoxylic acid chloride p-toluenesulfonylhydrazone | C1(=CC=C(C=C1)S(=O)(=O)NN=CC(=O)Cl)C | C9H9ClN2O3S
reactant | benzyl 3-fluoro-4-[(1E)-3-hydroxyprop-1-enyl]phenylcarbamate | 7.1 mmol, 2.14 g | FC=1C=C(C=CC1\C=C\CO)NC(OCC1=CC=CC=C1)=O | C17H16FNO3
reactant | N,N-dimethylaniline | 7.81 mmol, 1.0 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | triethylamine | 35.5 mmol, 4.9 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 55 mL | ClCCl | CH2Cl2
product | (2E)-3-(4-{[(benzyloxy)carbonyl]amino}-2-fluorophenyl)prop-2-enyl diazoacetate | [N+](=[N-])=CC(=O)OC\C=C\C1=C(C=C(C=C1)NC(=O)OCC1=CC=CC=C1)F | C19H16FN3O4
